US07439266B2
13.2 g of malononitrile was dissolved in 50 ml of N,N-dimethylformamide and 28 g of potassium carbonate was added thereto, followed by stirring for 1 hour at room temperature. To the solution was added 19.6 g of tert-butyl bromoacetate at about 0° C. and stirred for 15 minutes at the same temperature and for additional 4 hours at room temperature. Then, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue obtained was added about 50 ml of mixed solution of hexane and ethyl acetate (hexane/ethyl acetate=3/1) and filtered. The residue obtained by concentrating the filtrate under reduced pressure was subjected to silica gel column chromatography to give 6.13 g of 2-(tert-butoxycarbonylmethyl)malononitrile.

reactant | malononitrile | 13.2 g | C(CC#N)#N | C3H2N2
reactant | potassium carbonate | 28 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 19.6 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 2-(tert-butoxycarbonylmethyl)malononitrile | 6.13 g | C(C)(C)(C)OC(=O)CC(C#N)C#N | C9H12N2O2
